US07659296B2
D. 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid methyl ester
2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzooxazole-5-carboxylic acid methyl ester (2.10 g, 5.94 mmol) and 1-bromopinacolone (1.59 g, 8.87 mmol) and K2CO3 (2.04 g, 14.8 mmol) are reacted analogous to Example 1, step G to give the title compound as a pale yellow oil (2.55 g, 95%). H-NMR (ppm, CDCl3) δ: 8.43 (1H, d, J=1.3 Hz), 8.01 (1H, dd, J=1.8, 8.8 Hz), 7.42 (1H, d, J=8.4 Hz), 7.01 (1H, d, J=2.2 Hz), 6.96 (1H, dd, J=2.2, 8.4 Hz), 6.51 (1H, d, J=8.8 Hz), 4.84 (2H, s), 3.95 (3H, s), 2.38 (2H, q, J=7.5 Hz), 2.32 (2H, q, J=7.5 Hz), 2.25 (3H, s), 1.25 (9H, s), 0.76 (6H, t, J=7.5 Hz).

reactant | 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzooxazole-5-carboxylic acid methyl ester | 5.94 mmol, 2.10 g | COC(=O)C=1C=CC2=C(N=C(O2)C(CC)(C2=CC(=C(C=C2)O)C)CC)C1 | C21H23NO4
reactant | 1-bromopinacolone | 8.87 mmol, 1.59 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 14.8 mmol, 2.04 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid methyl ester | 2.55 g, 95% | COC(=O)C=1C=CC2=C(N=C(O2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C1 | C27H33NO5
